US04462943
Six hundred ml. of benzyl alcohol are cooled to 10° and, with vigorous stirring, there is added over the course of 30 minutes, 100 grams of thionyl chloride, while the temperature is maintained at 10°. To this solution there is added, at 10°, 50 grams of cis-4-(phenylthio)-L-proline and the mixture stirred for 48 hours at room temperature. To this reaction mixture there is then added 4 liters of anhydrous ether and the mixture stirred vigorously with cooling. The precipitated solid is filtered, washed with ether and dried to yield the desired 4-(S)-(phenylthio)-L-proline, phenylmethyl ester hydrochloride salt.

reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | thionyl chloride | 100 grams | S(=O)(Cl)Cl | Cl2OS
reactant | cis-4-(phenylthio)-L-proline | 50 grams | C1(=CC=CC=C1)S[C@H]1C[C@H](NC1)C(=O)O | C11H13NO2S
solvent | ether | 4 liters | CCOCC | C4H10O
product | 4-(S)-(phenylthio)-L-proline, phenylmethyl ester hydrochloride salt | Cl.C1(=CC=CC=C1)S[C@H]1C[C@H](NC1)C(=O)OCC1=CC=CC=C1 | InChI=1S/C18H19NO2S.ClH/c20-18(21-13-14-7-3-1-4-8-14)17-11-16(12-19-17)22-15-9-5-2-6-10-15;/h1-10,16-17,19H,11-13H2;1H/t16-,17-;/m0./s1
